US03946054
To a suspension of 26.5 g (0.2 moles) of aluminum chloride in 50 cc of dichloroethane is added a solution of 13.5 g (0.1 moles) of hexanoyl chloride and 10.0 g (0.1 moles) of methyl crotonate. Over a period of 10 minutes the temperature rises from 25 to 60°C. The reaction mass is refluxed for 4 hours at a temperature of approximately 90°C. The resultant methyl-5-oxo-decenoate is formed only in a small amount (approximately 2-3%).

reactant | aluminum chloride | 0.2 moles, 26.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hexanoyl chloride | 0.1 moles, 13.5 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | methyl crotonate | 0.1 moles, 10.0 g | C(\C=C\C)(=O)OC | C5H8O2
solvent | dichloroethane | 50 cc | ClC(C)Cl | C2H4Cl2
product | methyl-5-oxo-decenoate | COC(C=CCC(CCCCC)=O)=O | C11H18O3
